US05750549
2-(Methylsulfonyl)benzylbromide
To a solution of 124 mg (0.57 mmol) of 2-(methylthio)-benzylbromide in 8.0 mL of methanol was added a solution of 702 mg of oxone in 7.0 mL of water. The solution was stirred for 4.5 h, concentrated in vacuo and purified by silica gel flash chromatography, eluting with 10% ethyl acetate/hexane to give 105 mg of the title compound. mass spec 249(M+). NMR (CDCl3): δ 3.25 (s, 3H), 5.07 (s, 2H), 7.50 (m, 1H), 7.60 (m, 2H), 8.05 (d, 1H).

reactant | 2-(methylthio)-benzylbromide | 0.57 mmol, 124 mg | CSC1=C(CBr)C=CC=C1 | C8H9BrS
reactant | oxone | 702 mg | OOS(=O)[O-].[K+]
reactant | methanol | 8.0 mL | CO | CH4O
solvent | water | 7.0 mL | O | H2O
product | 2-(Methylsulfonyl)benzylbromide | 105 mg | CS(=O)(=O)C1=C(CBr)C=CC=C1 | C8H9BrO2S
